US04616014
A mixture of 4'-chloro-2-hydroxyiminopropiophenone (252.3 g), thiosemicarbazide (151.3 g), methanol (650 ml) water (300 ml), and acetic acid (9 ml) was refluxed for 31 hours with stirring. After cooling, the resulting precipitates were collected by filtration, washed successively with methanol, water and methanol, and then dried to give 4'-chloro-2-hydroxyiminopropiophenone thiosemicarbazone (298.88 g).

reactant | 4'-chloro-2-hydroxyiminopropiophenone | 252.3 g | ClC1=CC=C(C=C1)C(C(C)=NO)=O | C9H8ClNO2
reactant | thiosemicarbazide | 151.3 g | NNC(=S)N | CH5N3S
reactant | methanol | 650 ml | CO | CH4O
solvent | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
product | 4'-chloro-2-hydroxyiminopropiophenone thiosemicarbazone | 298.88 g | ClC1=CC=C(C=C1)C(C(C)=NO)=NNC(=S)N | C10H11ClN4OS
